US06515124B2
A mixture of rac.-N-(benzyloxycarbonyl)-2-(dimethoxyphosphinyl)glycine methyl ester (3.5 g, 10.56 mmol) and 10% palladium on carbon (0.5 g) in methanol (75 mL) was hydrogenated at 50 psi for 1 h. The solution was filtered through Celite® and the filtrate was concentrated and then dried under high vacuum to furnish rac.-2-(dimethoxy-phosphinyl)glycine methyl ester as an clear oil (2.0 g, 96% yield). The amine prepared in this manner was used per se in subsequent reactions.

reactant | rac.-N-(benzyloxycarbonyl)-2-(dimethoxyphosphinyl)glycine methyl ester | 10.56 mmol, 3.5 g | COC(C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC)=O | C13H18NO7P
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 75 mL | CO | CH4O
product | rac.-2-(dimethoxy-phosphinyl)glycine methyl ester | 2.0 g, 96% yield | COC(C(N)P(=O)(OC)OC)=O | C5H12NO5P
